US09303041B2
10-Amino-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene-7-carbonitrile hydrochloride
To a suspension of 2-(4-Cyano-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile, prepared as described in the previous step, (0.52 g) in ethanol (5 mL), was added tine chloride (1.36 g, 7.2 mmol) in 6 N HCl. The mixture was heated in an 85° C. oil bath for 3 hours and then cooled in ice bath. The solid was filtered, washed with water, and dried to brown give the title compound as a brown solid containing inorganic salt, which was used in the next step without additional purification. LC-MS: m/z 255 (M+1 of free base). 1H NMR (DMSO-d6, 400 MHz): δ (ppm) 11.18 (br, 1H), 10.09 (s, 1H), 9.35 (br, 1H), 8.94 (br, 1H), 7.54 (d, 1H), 7.27 (s, 1H), 6.95 (d, 1H), 2.26 (s, 3H).

reactant | 2-(4-Cyano-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile | C(#N)C1=CC(=C(C=C1)NC=1SC(=CC1C#N)C)[N+](=O)[O-] | C13H8N4O2S
reactant | tine chloride | 7.2 mmol, 1.36 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | HCl | 6 N | Cl | ClH
product | 10-Amino-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene-7-carbonitrile hydrochloride | Cl.NC1=NC2=C(NC=3SC(=CC13)C)C=CC(=C2)C#N | InChI=1S/C13H10N4S.ClH/c1-7-4-9-12(15)16-11-5-8(6-14)2-3-10(11)17-13(9)18-7;/h2-5,17H,1H3,(H2,15,16);1H
